US05358951
Cis-2-Butyl-6-(hexahydro-3a-methyl-2H-isoxazolo[2,3-a]pyridin-2-yl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
To a solution of 0.500 g of 2-Butyl-6-ethenyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone in 25 ml of toluene is added 0.201 g of 2,3,4,5-tetrahydro-6-methyl-pyridine 1-oxide and the reaction mixture heated at reflux for 12 hours. The reaction mixture is cooled and concentrated in vacuo to a residue which is purified by chromatography on silica gel by elution with 1:2 ethyl acetate-hexanes to give 0.108 g of the desired product.

reactant | 2-Butyl-6-ethenyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.500 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C | C47H40N6O
reactant | 2,3,4,5-tetrahydro-6-methyl-pyridine 1-oxide | 0.201 g | CC=1CCCC[N+]1[O-] | C6H11NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Cis-2-Butyl-6-(hexahydro-3a-methyl-2H-isoxazolo[2,3-a]pyridin-2-yl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.108 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@@H]1C[C@@]2(N(CCCC2)O1)C | C53H51N7O2
